US07514567B2
(R)-3′-[5-(Thiazol-4-yl)furan-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
The title compound was prepared by a method analogous to that described in Example 14 from (R)-3′-(5-bromofuran-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one and 4-(tri-n-butylstannyl)thiazole. The title compound (81 mg) was obtained as a pale solid, m/z 332 (MH+).

reactant | (R)-3′-(5-bromofuran-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | BrC1=CC=C(O1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C13H15BrN2O3
reactant | 4-(tri-n-butylstannyl)thiazole | C(CCC)[Sn](C=1N=CSC1)(CCCC)CCCC
product | (R)-3′-[5-(Thiazol-4-yl)furan-2-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 81 mg | S1C=NC(=C1)C1=CC=C(O1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C16H17N3O3S
